US08835432B2
To a solution of 2-((3-chloro-2-nitrophenyl)amino)butanoic acid (1.5 Kg, 5.8 mol), 4 N aq. HCl (4.35 L, 17.4 mol) and EtOH (5.3 L) was added SnCl2.2H2O (3.93 Kg, 17.4 mol). The reaction mixture was heated to reflux for 5 h. At this time LC-MS analysis showed that the reaction was complete. After cooling to rt the reaction mixture was evaporated under reduced pressure. The resulting residue was cooled to 0° C. using an ice-water bath and an aqueous solution of 10 N KOH (12 L, 180 mol) was carefully added with vigorous stirring. After filtration to remove insoluble solids, the filtrate was extracted with DCM (2×10 L) washed with water, brine, dried over anhydrous Na2SO4, and evaporated under reduced pressure to give 8-chloro-3-ethyl-3,4-dihydroquinoxalin-2(1H)-one (1.1 Kg) as a yellow solid, which was used without further purification. 1H NMR (DMSO-d6) δ ppm 9.70 (s, 1H), 6.65-6.83 (m, 3H), 6.31-6.44 (m, 1H), 3.66-3.72 (m, 1H), 1.53-1.71 (m, 2H), 0.92 (t, J=7.4 Hz, 3H). Mass Spectrum (ESI) m/z=211.2 (M+1).

reactant | 2-((3-chloro-2-nitrophenyl)amino)butanoic acid | 5.8 mol, 1.5 Kg | ClC=1C(=C(C=CC1)NC(C(=O)O)CC)[N+](=O)[O-] | C10H11ClN2O4
reactant | HCl | 17.4 mol, 4 N, 4.35 L | Cl | ClH
reactant | SnCl2.2H2O | 17.4 mol, 3.93 Kg | O.O.Cl[Sn]Cl
reactant | KOH | 180 mol, 10 N, 12 L | [OH-].[K+]
solvent | EtOH | 5.3 L | CCO | C2H6O
product | 8-chloro-3-ethyl-3,4-dihydroquinoxalin-2(1H)-one | 1.1 Kg | ClC=1C=CC=C2NC(C(NC12)=O)CC | C10H11ClN2O
